US07754744B2
Step 7: [6-(Piperidin-4-ylamino)-pyridin-3-yloxy]-acetonitrile
To a stirred solution of 4-[tert-butoxycarbonyl-(5-cyanomethoxy-pyridin-2-yl)-amino]-piperidine-1-carboxylic acid tert-butyl ester (0.90 g, 2.1 mmol, 1.0 equiv) in dichloromethane (15 mL) was added 90% trifluoroacetic acid (1.69 mL, 2.37 g, 19 mmol, 9.0 equiv) drop by drop and the reaction mixture stirred at rt for 16 h. It was then poured into ice water and the pH adjusted to 9-10 by addition of a sat. solution of potassium carbonate. The solution was extracted three times with a mixture of dichloromethane/isopropanol (4:1). The combined organic layers were concentrated by evaporation under reduced pressure to give 0.15 g (30%) of the title compound as yellow oil. MS (ISP): 233.0 [M+H]−.

reactant | 4-[tert-butoxycarbonyl-(5-cyanomethoxy-pyridin-2-yl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 2.1 mmol, 0.90 g, 1.0 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C1=NC=C(C=C1)OCC#N)C(=O)OC(C)(C)C | C22H32N4O5
reactant | trifluoroacetic acid | 19 mmol, 1.69 mL, 2.37 g, 9.0 equiv | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | [6-(Piperidin-4-ylamino)-pyridin-3-yloxy]-acetonitrile | 0.15 g, 30% | N1CCC(CC1)NC1=CC=C(C=N1)OCC#N | C12H16N4O
